US04886814
N-[2-(4-Carbomethoxyphenyl)-1-methylethyl]-N-benzyl-2-hydroxy-2-(2-benzoylamino-thiazol-4-yl)ethanamine
3.5 g (0.011 mol) of 2-Benzoylamino-4-bromoacetyl-thiazole are dissolved in 20 ml of dimethylformamide and added dropwise to a stirred solution, at room temperature, of 2.6 g (0.092 mol) of N-benzyl-2-(4-carbomethoxyphenyl)-1-methylethylamine and 1.1 g (0.011 mol) of triethylamine dissolved in 40 ml of dimethylformamide. After 1.5 hours ice/water is added, and the mixture is extracted with methylene chloride. The extract is dried over sodium sulphate and concentrated. The resulting amino-ketone is taken up in 100 ml of methanol and at room temperature, 0.6 g of sodium borohydride is added. After 1 hour the mixture is evaporated to dryness, water is added, and hydrochloric acid is used to acidify. After 10 minutes the mixture is made alkaline with ammonia and extracted with methylene chloride. The extract is dried over sodium sulphate, concentrated and purified on a silica gel column using toluene/ethyl acetate=8:2 as eluant.

reactant | 2-Benzoylamino-4-bromoacetyl-thiazole | 0.011 mol, 3.5 g | C(C1=CC=CC=C1)(=O)NC=1SC=C(N1)C(CBr)=O | C12H9BrN2O2S
reactant | N-benzyl-2-(4-carbomethoxyphenyl)-1-methylethylamine | 0.092 mol, 2.6 g | C(C1=CC=CC=C1)NC(CC1=CC=C(C=C1)C(=O)OC)C | C18H21NO2
reactant | triethylamine | 0.011 mol, 1.1 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-[2-(4-Carbomethoxyphenyl)-1-methylethyl]-N-benzyl-2-hydroxy-2-(2-benzoylamino-thiazol-4-yl)ethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)N(CC(C=1N=C(SC1)NC(C1=CC=CC=C1)=O)O)CC1=CC=CC=C1 | C30H31N3O4S
